US06706751B2
Hydrogenolysis at atmospheric pressure of 5 mg (0.013 mmol) 5-[5-(Allyl-methyl-amino)-pent-1-ynyl]-6-fluoro-2,3-dihydro-indole-1-carboxylic acid 4-chloro-phenyl ester in 0.5 ml AcOH in the presence of 5 mg 10% Pd/C during 12 hrs, followed by filtration, evaporation of the AcOH, distribution of the residue between Et2O and 0.5 M NaOH, drying of the organic layer with Na2SO4, evaporation of the solvent and chromatograpy on silica gel with EtOAc/MeOH/NEt3 10:1:0.1 gave 3 mg (64%) of 6-Fluoro-5-[5-(methyl-propyl-amino)-pentyl]-2,3-dihydro-indole-1-carboxylic acid phenyl ester as a yellow oil, MS: 399 (MH+)

reactant | 5-[5-(Allyl-methyl-amino)-pent-1-ynyl]-6-fluoro-2,3-dihydro-indole-1-carboxylic acid 4-chloro-phenyl ester | 0.013 mmol, 5 mg | ClC1=CC=C(C=C1)OC(=O)N1CCC2=CC(=C(C=C12)F)C#CCCCN(C)CC=C | C24H24ClFN2O2
solvent | AcOH | 0.5 ml | CC(=O)O | C2H4O2
catalyst | Pd/C | 5 mg | [Pd] | Pd
product | 6-Fluoro-5-[5-(methyl-propyl-amino)-pentyl]-2,3-dihydro-indole-1-carboxylic acid phenyl ester | 3 mg, 64% | C1(=CC=CC=C1)OC(=O)N1CCC2=CC(=C(C=C12)F)CCCCCN(CCC)C | C24H31FN2O2
